US06727387B2
N,N,N-Trimethyl t-octylammonium iodide:
To a stirred and cooled (water bath) solution of N,N-dimethyl t-octylamine (5 g, 31.8 mmol) in dichloromethane (30 mL) was added methyl iodide (6.7 g, 47.7 mmol) drop-wise. A slight increase in temperature was observed along with the formation light yellow precipitate. Stirring was continued for 24 h at room temperature, and at the end of this period, the solvent and excess methyl iodide were evaporated to produce a light yellow powder. This solid was washed with excess of n-pentane (3×75 mL), filtered, and suction dried (9.0 g, 95%). mp: ca. 260° C. (by DSC). 1H NMR (CDCl3): δ3.33 (s, 9H, —N+(CH3)3), 1.82 (s, 2H, —CH2—), 1.61 (bt, 6H, —C(CH3)2—), 1.12 (s, 9H, —C(CH3)3) ppm.

reactant | water | O | H2O
reactant | N,N-dimethyl t-octylamine | 31.8 mmol, 5 g | CN(C)C(C)(C)CC(C)(C)C | C10H23N
reactant | methyl iodide | 47.7 mmol, 6.7 g | CI | CH3I
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N,N,N-Trimethyl t-octylammonium iodide | [I-].C[N+](C)(C)C(C)(C)CC(C)(C)C | InChI=1S/C11H26N.HI/c1-10(2,3)9-11(4,5)12(6,7)8;/h9H2,1-8H3;1H/q+1;/p-1
